US09120773B2
In a stream of argon, 185 mg (0.644 mmol) of 9,9-dimethyl-2-benzo[c]fluoreneboronic acid, 300 mg (0.644 mmol) of 2-(3,5-dibromophenyl)-4,6-diphenyl-1,3,5-triazine and 7.44 mg (0.00644 mmol) of tetrakis(triphenylphosphine)palladium were suspended in a mixed solvent composed of 24 mL of toluene and 3 mL of ethanol, and the resultant suspension was heated to 50° C. To the suspension, 1.93 ml (1.93 mmol) of an aqueous 1M K2CO3 solution was gradually added dropwise, and the mixture was stirred for 3 hours. The resultant reaction mixture was heated to 80° C. and further stirred for 3 hours. The reaction mixture was cooled to room temperature, and then, 256 mg (1.29 mmol) of 4-(2-pyridyl)phenylboronic acid and 2.90 mL (2.90 mmol) of an aqueous 1M K2CO3 solution were added to the reaction mixture. The resultant mixture was heated to 80° C., and maintained at that temperature for 24 hours while being stirred. The obtained reaction mixture was cooled to room temperature, and then distilled under a reduced pressure to remove all volatile materials. Methanol was added to the concentrate, and the thus-deposited solid was collected by filtration. The obtained crude product was purified by silica gel chromatography using a hexane/chloroform (1:2) mixed solvent as an eluent to give 172 mg of the target 2-[5-(9,9-dimethylbenzo[c]fluoren-2-yl)-4′-(2-pyridyl)biphenyl-3-yl]-4,6-diphenyl-1,3,5-triazine as a white solid (yield: 38.0%).

reactant | 9,9-dimethyl-2-benzo[c]fluoreneboronic acid | 0.644 mmol, 185 mg | CC1(C=CC2=C3C4=C(C=CC3=CC2=C1)C=CC(=C4)B(O)O)C | C19H17BO2
reactant | 2-(3,5-dibromophenyl)-4,6-diphenyl-1,3,5-triazine | 0.644 mmol, 300 mg | BrC=1C=C(C=C(C1)Br)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H13Br2N3
reactant | K2CO3 | 1M | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(2-pyridyl)phenylboronic acid | 1.29 mmol, 256 mg | N1=C(C=CC=C1)C1=CC=C(C=C1)B(O)O | C11H10BNO2
reactant | K2CO3 | 1M | C(=O)([O-])[O-].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.00644 mmol, 7.44 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | toluene | 24 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[5-(9,9-dimethylbenzo[c]fluoren-2-yl)-4′-(2-pyridyl)biphenyl-3-yl]-4,6-diphenyl-1,3,5-triazine | yield: 38.0% | CC1(C=CC2=C3C4=C(C=CC3=CC2=C1)C=CC(=C4)C=4C=C(C=C(C4)C4=CC=C(C=C4)C4=NC=CC=C4)C4=NC(=NC(=N4)C4=CC=CC=C4)C4=CC=CC=C4)C | C51H36N4
